US07037922B1
Prepare 2-phenylthieno[3,2-b]pyridin-4-yl chloride by the method described in PCT application WO 9943682. A mixture containing 400 mg of 2-phenylthieno[3,2-b]pyridin-4-yl chloride, 400 mg of p-toluenesulfonic acid and 200 mg of potassium cyanide in anhydrous DMF is heated at 160° C. in an oil bath for 16 h under nitrogen. The mixture is cooled to ambient temperature, poured into a mixture of ice and water. The resulting mixture is extracted with ethyl acetate and the ethyl acetate layer is washed with water followed by brine. The ethyl acetate solution is dried over sodium sulfate, filtered and evaporated at reduced pressure to obtain a tan-colored residue. This material is dissolved in 10 ml of ethanol, treated with 1 g of sodium hydroxide and heated at reflux for 2 h. The ethanol solution is evaporated and the resulting residue is dissolved in water. The pH of this solution is adjusted to slightly acidic by addition of 1 N HCl to yield 2-phenylthieno[3,2-b]pyridin-4-yl carboxylic acid as a red-orange solid. After drying in vacu this material is pure according to proton NMR and LC/MS.

reactant | 2-phenylthieno[3,2-b]pyridin-4-yl chloride | C1(=CC=CC=C1)C1C=C2N(C=CC=C2S1)Cl | C13H10ClNS
reactant | 2-phenylthieno[3,2-b]pyridin-4-yl chloride | 400 mg | C1(=CC=CC=C1)C1C=C2N(C=CC=C2S1)Cl | C13H10ClNS
reactant | p-toluenesulfonic acid | 400 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium cyanide | 200 mg | [C-]#N.[K+]
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-phenylthieno[3,2-b]pyridin-4-yl carboxylic acid | C1(=CC=CC=C1)C1C=C2N(C=CC=C2S1)C(=O)O | C14H11NO2S
